US07166583B2
1H-8-Oxa-1,3-diaza-dibenzo[e,h]azulene (1; Table III)
To a solution of dibenzo[b,f]oxepine-10,11-dione (9.6 mmole) in acetic acid (30.0 ml), ammonium acetate (96.0 mmole) and paraformaldehyde (11.5 mmole) were added. The reaction mixture was heated under stirring and reflux for 4 hours, then it was cooled to room temperature, diluted with water, neutralized with ammonium hydroxyde and extracted with ethyl acetate. The organic extract was washed with an aqueous sodium chloride solution, dried over anhydrous Na2SO4 and evaporated under reduced pressure. After purification of the evaporation residue by chromatography on a silica gel column, a crystal product was isolated.

reactant | dibenzo[b,f]oxepine-10,11-dione | 9.6 mmole | C1=CC=CC=2OC3=C(C(C(C21)=O)=O)C=CC=C3 | C14H8O3
reactant | ammonium acetate | 96.0 mmole | C(C)(=O)[O-].[NH4+]
reactant | paraformaldehyde | 11.5 mmole | C=O | CH2O
reactant | ammonium | [NH4+]
solvent | acetic acid | 30.0 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1H-8-Oxa-1,3-diaza-dibenzo[e,h]azulene | N1C=NC=2C3=C(OC4=C(C12)C=CC=C4)C=CC=C3 | C15H10N2O
